US08809371B2
5M sodium methoxide (methanol solution) (0.5 ml) was added to a methanol solution (2 ml) containing n-butyl 3-(2-(methylamino)-5-nitropyridin-3-yl)acrylate (43 mg) obtained in the 1st step, followed by reflux for 3.5 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=4:1 to 2:1), and a white solid of 1-methyl-6-nitro-1,8-naphthyridin-2(1H)-one (24 mg) was thus obtained.

reactant | sodium methoxide | 5M, 0.5 ml | C[O-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
reactant | n-butyl 3-(2-(methylamino)-5-nitropyridin-3-yl)acrylate | 43 mg | CNC1=NC=C(C=C1C=CC(=O)OCCCC)[N+](=O)[O-] | C13H17N3O4
solvent | Water | O | H2O
product | 1-methyl-6-nitro-1,8-naphthyridin-2(1H)-one | 24 mg | CN1C(C=CC2=CC(=CN=C12)[N+](=O)[O-])=O | C9H7N3O3
